US04725600
To a suspension of 2-chloro-3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-4-(2,4,6-trimethylphenylimino)pyrimidine (2.08 g) in ethanol (20 ml) was added 1,2,3,6-tetrahydropyridine (1.38 ml), and refluxed for 1.5 hours. The resulting precipitates were collected, dissolved in chloroform, washed with aqueous sodium bicarbonate solution, and dried over magnesium sulfate. After evaporated, the residue was triturated with diisopropyl ether to give 3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-2-(1,2,3,6-tetrahydropyridin-1-yl)-4-(2,4,6-trimethylphenylimino)pyrimidine (1.95 g).

reactant | 2-chloro-3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-4-(2,4,6-trimethylphenylimino)pyrimidine | 2.08 g | ClC1=NC(=CC(N1C)=NC1=C(C=C(C=C1C)C)C)C1=CC(=C(C=C1)OC)OC | C22H24ClN3O2
reactant | 1,2,3,6-tetrahydropyridine | 1.38 ml | N1CCC=CC1 | C5H9N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-2-(1,2,3,6-tetrahydropyridin-1-yl)-4-(2,4,6-trimethylphenylimino)pyrimidine | 1.95 g | COC=1C=C(C=CC1OC)C1=CC(N(C(=N1)N1CCC=CC1)C)=NC1=C(C=C(C=C1C)C)C | C27H32N4O2
